US08541588B2
tert-butyl 4-[5-chloro-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)phenyl]-1H-pyrazole-1-carboxylate
tert-butyl 4-(5-chloro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate (Preparation 205, 99.6 mg, 0.338 mmol), 3-chloro-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 653, 153 mg, 0.345 mmol) and potassium carbonate (59.8 mg, 0.433 mmol) were stirred in dimethylsulphoxide (5 ml) at room temperature for 16 hours. The mixture was diluted with saturated aqueous sodium chloride solution (40 ml) and extracted with ethyl acetate (3×40 ml). The combined organics were dried over anhydrous magnesium sulphate, filtered and the solvents removed in vacuo to give the crude product which was purified by column chromatography using the ISCO® (using a gradient of 0-40% v/v ethyl acetate in heptane, 12 g SiO2) to give the title compound as a white solid (121 mg)

reactant | tert-butyl 4-(5-chloro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate | 0.338 mmol, 99.6 mg | ClC=1C=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)O | C14H15ClN2O3
reactant | 3-chloro-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.345 mmol, 153 mg | ClC=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C17H15ClFN3O4S2
reactant | potassium carbonate | 0.433 mmol, 59.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | sodium chloride | 40 ml | [Cl-].[Na+]
product | tert-butyl 4-[5-chloro-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)phenyl]-1H-pyrazole-1-carboxylate | 121 mg | ClC=1C=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)OC1=C(C=C(C=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)Cl | C31H29Cl2N5O7S2
